US07220744B2
a) 4-(5-Trifluoromethyl-[1,3,4]thiadiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 2.2 mmol 2-bromo-5-trifluoromethyl-[1,3,4]thiadiazole (CA 37461-6-3; prepared according to DE2533605), 2.3 mmol piperazine-1-carboxylic acid tert-butyl ester and 4.3 mmol potassium carbonate in 10 ml acetonitrile was refluxed for 4 hours. The reaction mixture was cooled, poured into water and extracted 3 times with ethyl acetate. Concentration and recrystallisation of the crude material from diethyl ether yielded the title compound as a colorless solid. MS (m/e): 397.2 ([M+CH3COO]31 , 100%).

reactant | 2-bromo-5-trifluoromethyl-[1,3,4]thiadiazole | 2.2 mmol | BrC=1SC(=NN1)C(F)(F)F | C3BrF3N2S
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.3 mmol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 4.3 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(5-Trifluoromethyl-[1,3,4]thiadiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=NN1)C(F)(F)F | C12H17F3N4O2S
